US05238652
Preparation of Benzoylecgonine--BSA Conjugate
This ecgonine derivative (70 mg) was dissolved in 2.5 mL of 32% hydrobromic acid dissolved in acetic acid. The resulting solution was stirred at 5° C. for one hour, and then allowed to warm to room temperature. After being stirred an additional 3 hours, ether (50 mL) was added and the supernatant was decanated from the white precipitate. This process of washing with ether was repeated three times. The white solid was dried in vacuo, and the hygroscopic hydrobromide salt was dissolved in 6 mL of 5% of dimethyformamide in water, and the pH was adjusted to 7.0-7.1 with 5% aqueous tetramethylammonium hydroxide. Then, 50 mg of N-hydroxysuccinimide was dissolved in 4 ml of a 25% solution of 1,2-dimethoxylethane in water and this was added to the reaction mixture. The mixture was then cooled to 5° C. and 70 mg of bovine serum albumin was added followed by 70 mg of 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride. After one hour, an additional 15 mg of the diimide was added and stirring was continued at from 5° to 15° C. for 18 hours. This mixture was then dialyzed against 0.1M NaCl (2×4 liters) for 48 hours to give the conjugate solution which was used as is for the probe line for the benzoylecgonine/cocaine assay.

reactant | ecgonine | 70 mg | CN1[C@H]2CC[C@@H]1[C@H]([C@H](C2)O)C(=O)O | C9H15NO3
reactant | ether | 50 mL | CCOCC | C4H10O
reactant | benzoylecgonine cocaine | CN1[C@H]2CC[C@@H]1[C@H]([C@H](C2)OC(=O)C3=CC=CC=C3)C(=O)O.CN1[C@H]2CC[C@@H]1[C@H]([C@H](C2)OC(=O)C=3C=CC=CC3)C(=O)OC
solvent | hydrobromic acid | 2.5 mL | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Benzoylecgonine | CN1[C@H]2CC[C@@H]1[C@H]([C@H](C2)OC(=O)C3=CC=CC=C3)C(=O)O | C16H19NO4
